US07230011B2
1-Benzyl-7-methyl-3-(1-methylpiperdin-4-yl)-5-hydroxy-1H-indole
By a method similar to Preparation 8, using 1-benzyl-5-methoxy-7-methyl-3-(1-methylpiperdin-4-yl)-1H-indole (1.62 g) and pyridine hydrochloride (25 g) to afford 0.936 g (60%) of the title compound: Mass spectrum (ion spray): m/z=335 (M+1).

reactant | 1-benzyl-5-methoxy-7-methyl-3-(1-methylpiperdin-4-yl)-1H-indole | 1.62 g | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC(=C12)C)OC)C1CCN(CC1)C | C23H28N2O
reactant | pyridine hydrochloride | 25 g | Cl.N1=CC=CC=C1
product | 1-Benzyl-7-methyl-3-(1-methylpiperdin-4-yl)-5-hydroxy-1H-indole | 0.936 g, 60% | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC(=C12)C)O)C1CCN(CC1)C | C22H26N2O
